US07582781B2
1-Chloro-2-(2,4-difluorophenyl)-3-pivaloyloxybutan-2-ol
A solution of 0.41 g (2.0 mmol) of (R)-1-chloro-3-pivaloyloxybutan-2-one in 5 mL of THF was cooled to 0° C., and 3.2 mL (2.2 mmol) of a 0.69 M solution of 2,4-difluorophenylmagnesium bromide prepared by the same method as that in Example 3 was added dropwise thereto over a period of 5 minutes. After the completion of the dropwise addition, stirring was continued for another 1 hour, and 10 mL of a saturated aqueous solution of ammonium chloride was added to stop the reaction. Furthermore, 10 mL of water was added, and extraction was performed with ethyl acetate (20 mL×2). After drying over anhydrous sodium sulfate, concentration was performed under reduced pressure to obtain a crude product. A quantitative analysis was performed by HPLC. Thereby, the title compound was obtained in a yield of 15% ((2S,3R)/(2R,3R)=92/8) (HPLC, column: YMC-A302 manufactured by YMC Co. Ltd., mobile phase: acetonitrile/20 mM (potassium) phosphate buffer solution (pH=2.5)=6/4, flow rate: 1.0 mL/min, column temperature: 30° C., detector: UV 210 nm, retention time: 10 minutes (2S,3R) and 8 minutes (2R,3R)). 1H-NMR (400 MHz, CDCl3) δ: 1.05 (d, 3H, J=6.3 Hz), 1.25 (s, 9H), 3.86 (d, 1H, J=11.5 Hz), 4.19 (d, 1H, 11.5 Hz), 5.38 (q, 1H, J=6.3 Hz), 6.77-6.80 (m, 1H), 6.91-6.93 (m, 1H), 7.69-7.71 (m, 1H).

reactant | (R)-1-chloro-3-pivaloyloxybutan-2-one | 2.0 mmol, 0.41 g | ClCC([C@@H](C)OC(C(C)(C)C)=O)=O | C9H15ClO3
reactant | 2,4-difluorophenylmagnesium bromide | FC1=C(C=CC(=C1)F)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | 10 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 20 mM, pH=2.5 | C(C)#N | C2H3N
product | 1-Chloro-2-(2,4-difluorophenyl)-3-pivaloyloxybutan-2-ol | yield of 15% | ClCC(C(C)OC(C(C)(C)C)=O)(O)C1=C(C=C(C=C1)F)F | C15H19ClF2O3
